US07087626B2
Methyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-amine
A solution of methyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-carbamic acid tert-butyl ester (100 mg, 0.2 mmol) in trifluoracetic acid (3 mL) is stirred at room temperature for 6 h. The mixture is concentrated in vacuo and traces of trifluoroacetic acid removed by repeated evaporation with chloroform. The residue is placed on an SCX column and washed with water, methanol, and 7 N ammonia in methanol. Concentration of the appropriate fraction yields the title compound, 40 mg (50%), as yellow oil.

reactant | methyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-carbamic acid tert-butyl ester | 0.2 mmol, 100 mg | C(C)(C)(C)OC(N(CCCOC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)C)=O | C29H33N5O3
solvent | trifluoracetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl-{3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-propyl}-amine | CNCCCOC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C24H25N5O
